US04404214
0.3 g of 4-bromo-2-pyridinecarboxylic acid, 0.25 g of N,N'-carbonyldiimidazole and 0.14 g of 5-aminotetrazole are treated in the same manner as described in Example 2. The crude product thus obtained is recrystallized from a mixture of dimethylformamide and ethanol, whereby 0.24 g of N-(5-tetrazolyl)-4-bromo-2-pyridinecarboxamide is obtained.

reactant | 4-bromo-2-pyridinecarboxylic acid | 0.3 g | BrC1=CC(=NC=C1)C(=O)O | C6H4BrNO2
reactant | 5-aminotetrazole | 0.14 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-4-bromo-2-pyridinecarboxamide | 0.24 g | N1N=NN=C1NC(=O)C1=NC=CC(=C1)Br | C7H5BrN6O
